US08957068B2
To a solution of (S)-tert-butyl 1-(3-hydroxyphenyl)ethylcarbamate (100 mg, 0.421 mmol), cyclohexanol (0.180 ml, 1.686 mmol) and PPh3 (221 mg, 0.843 mmol) in THF (2 ml), was added DEAD (0.133 ml, 0.843 mmol) dropwise, under N2, at room temperature. The resulting yellow solution was stirred for 3 hours, at which point another batch of cyclohexanol (0.180 ml, 1.686 mmol), PPh3 (221 mg, 0.843 mmol), and 10 min later DEAD (0.133 ml, 0.843 mmol), was added at room temperature. The reaction mixture was stirred for 16 hours and then concentrated. The crude clear oil was re-dissolved in DMSO and purified by reverse phase HPLC. The combined product fractions were desalted by addition of equal amount of EtOAc and about 250 mg Na2CO3 in a separatory funnel. The phases were separated and the organic washed with brine, dried over MgSO4, filtered and concentrated in vacuo to yield (S)-tert-butyl 1-(3-(cyclohexyloxy)phenyl)ethylcarbamate (74.1 mg, 0.232 mmol, 55.0% yield) as a clear colourless film. LCMS m/z 305.0/264.0 (the parent not observed, just the Boc fragments) (M+H)+, Rt 1.12 min.

reactant | (S)-tert-butyl 1-(3-hydroxyphenyl)ethylcarbamate | 0.421 mmol, 100 mg | OC=1C=C(C=CC1)[C@H](C)NC(OC(C)(C)C)=O | C13H19NO3
reactant | cyclohexanol | 1.686 mmol, 0.180 ml | C1(CCCCC1)O | C6H12O
reactant | PPh3 | 0.843 mmol, 221 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.843 mmol, 0.133 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | cyclohexanol | 1.686 mmol, 0.180 ml | C1(CCCCC1)O | C6H12O
reactant | PPh3 | 0.843 mmol, 221 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.843 mmol, 0.133 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (S)-tert-butyl 1-(3-(cyclohexyloxy)phenyl)ethylcarbamate | 0.232 mmol, 74.1 mg, 55.0% yield | C1(CCCCC1)OC=1C=C(C=CC1)[C@H](C)NC(OC(C)(C)C)=O | C19H29NO3
